US07943774B2
tert-Butyl 4-{4-[(1Z)-4-phenylpent-1-en-1-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (IV-4, 1.00 g) is dissolved in methanol and, at 40° C., hydrogenated under an H2-pressure of 10 bar in the presence of Pd/C (10%) for 5 hours. Filtration and removal of the solvent under reduced pressure gives tert-butyl 4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (1.00 g) as a colourless oil. This is deprotected analogously to Example II-2. This gives 850 mg of 4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidine hydrochloride. 169 mg are then reacted analogously to Example I-81 with [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (100 mg). After chromatographic purification, this gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (180 mg) as a colourless oil.

reactant | tert-Butyl 4-{4-[(1Z)-4-phenylpent-1-en-1-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 1.00 g | C1(=CC=CC=C1)C(C\C=C/C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C24H32N2O2S
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 1.00 g | C1(=CC=CC=C1)C(CCCC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C24H34N2O2S
